US05101028
(6-Cyano-2,5-dimethyl-7-hydroxy[1,2,4]triazolo[2,3-a]pyridine)
120 g of 3-aminocrotonitrile were introduced into 250 ml of anhydrous chlorobenzene and stirred at 110 to 120° C. Then 141 g of N-acetyl-N,-cyanoacetylhydrazine were introduced a little at a time, waiting after each addition until the exothermic reaction had subsided. The reaction mixture was then boiled for 2 hours and, after addition of 125 g of acetic anhydride, refluxed for a further 2 hours. The heating was then switched off; 500 ml of methanol were added at 60° to 70° C., and the mixture was allowed to cool to room temperature. The resulting suspension was filtered with suction, and the residue was washed with methanol and dried at 80° 140 g of 6-cyano-2,5-dimethyl-7-hydroxy[1,2,4]triazolo[2,3-a]-pyridine were obtained as a colorless powder which did not melt up to 350° . The compound dissolves in dilute aqueous alkalies and, after recrystallization from N-methylpyrrolidone, showes the following analysis:

reactant | 3-aminocrotonitrile | 120 g | C/C(=C\C#N)/N | C4H6N2
reactant | chlorobenzene | 250 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | cyanoacetylhydrazine | C(#N)CC(=O)NN | C3H5N3O
reactant | acetic anhydride | 125 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 500 ml | CO | CH4O
product | 6-Cyano-2,5-dimethyl-7-hydroxy[1,2,4]triazolo[2,3-a]pyridine | C(#N)C=1C(=CC=2N(C1C)N=C(N2)C)O | C9H8N4O
